US05506267
4-[6,7-bis(octadecylcarbamoyloxy)-4-thiaheptanoylamino]benzoylglutamic acid di-t-butyl ester
To a solution of phosphorus trichloride (19 mg) in pyridine (4 ml), 4-aminobenzoyl-glutamic acid di-t-butyl ester (106 mg) was added, followed by stirring at room temperature for 1 hour. To this mixture, 6,7-bis(octadecylcarbamoyloxy)-4-thiaheptanoic acid as obtained in Reference Example 10 (216 mg) was added, followed by stirring at 50° C. for 1 hour. After solvent concentration under reduced pressure, the resulting residue was purified by silica gel preparative TLC (dichloromethane:methanol=50:1×3) to yield the title compound (102 mg, yield 32%) as a colorless solid.

reactant | phosphorus trichloride | 19 mg | P(Cl)(Cl)Cl | Cl3P
reactant | 4-aminobenzoyl-glutamic acid di-t-butyl ester | 106 mg | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCC(=O)OC(C)(C)C)=O | C20H30N2O5
reactant | 6,7-bis(octadecylcarbamoyloxy)-4-thiaheptanoic acid | C(CCCCCCCCCCCCCCCCC)NC(=O)OC(CSCCC(=O)O)COC(NCCCCCCCCCCCCCCCCCC)=O | C44H86N2O6S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 4-[6,7-bis(octadecylcarbamoyloxy)-4-thiaheptanoylamino]benzoylglutamic acid di-t-butyl ester | 102 mg, yield 32% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC(NCCCCCCCCCCCCCCCCCC)=O)=O)=O)CCC(=O)OC(C)(C)C)=O | C64H114N4O10S
